US04275209
7.3 Grams of 4-(2-trifluoromethyl-6-fluoro-9-thioxanthenylidene)piperidine were dissolved in 50 milliliters of dry methylene chloride. Then 3.8 grams of cis-4-hydroxycyclohexane acetic cid (J.Am.Ch.Soc. 70, pg. 1898-99 (1948)) and 5 grams of dicyclohexylcarbodiimide were added. The mixture was heated at temperatures from 22 to 30 degrees Centigrade during which the dicyclohexylurea formed separated out and was then left standing overnight. The precipitate was filtered from the solution which was then evaporated, and the residue was dissolved in ether. The solution was washed with dilute hydrochloric acid, dried over anhydrous potassium carbonate, filtered and evaporated. The residue, which was an oil, wad dried by evaporation in vacuum with toluene and consisted of somewhat impure 1-(cis-4-hydroxycyclohexylmethylcarbonyl)-4-(2-trifluoromethyl-6-fluoro-9-thioxanthenylidene)piperidine which was used without further purification in the next step. The oil was dissolved in dry ether, and 2 grams of lithium aluminum hydride were added in small portions. The mixture was heated under reflux for one hour. Then water was added dropwise until the precipitate formed clotted. The ether phase was decanted, the precipitate washed thoroughly with ether, the combined ether phases were dried over anhydrous potassium carbonate and treated with active carbon and filtered. The ether was evaporated, and 1-(cis-4-hydroxycyclohexylethyl)-4-(2-trifluoromethyl-6-fluoro-9-thioxanthenylidene)piperidine was obtained as a yellow oil.

reactant | 4-(2-trifluoromethyl-6-fluoro-9-thioxanthenylidene)piperidine | FC(C1=CC=2C(C3=CC=C(C=C3SC2C=C1)F)=C1CCNCC1)(F)F | C19H15F4NS
reactant | cis-4-hydroxycyclohexane acetic cid | 3.8 grams | O[C@H]1CC[C@H](CC1)CC(=O)O | C8H14O3
reactant | dicyclohexylcarbodiimide | 5 grams | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dicyclohexylurea | C(=O)(NC1CCCCC1)NC1CCCCC1 | C13H24N2O
solvent | methylene chloride | 50 milliliters | C(Cl)Cl | CH2Cl2
product | 1-(cis-4-hydroxycyclohexylethyl)-4-(2-trifluoromethyl-6-fluoro-9-thioxanthenylidene)piperidine | O[C@H]1CC[C@H](CC1)CCN1CCC(CC1)=C1C2=CC=C(C=C2SC=2C=CC(=CC12)C(F)(F)F)F | C27H29F4NOS
